US04113722
(B) 11β-(Acetyloxy)-21-chloro-9-fluoro-20-trimethylsilyloxypregna-1,4,16,20-tetraene-3-one
A solution of 11β-(acetyloxy)-21-chloro-9-fluoropregna-1,4,16-triene-3,20-dione (1.35g) in dry acetonitrile (20 ml) containing 3.5 ml of bis(trimethylsilyl)trifluoroacetamide (Regisil®, Regis Chemical Company; contains 1% trimethylsilyl chloride) is heated in a pressure vial at about 150° C. for 1.0 hour. The solution is then cooled and evaporated in vacuo to leave 1.6g of the title compound contaminated with trace amounts of less polar impurities. This is used in the next step without further purification.

reactant | 11β-(acetyloxy)-21-chloro-9-fluoropregna-1,4,16-triene-3,20-dione | 1.35g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(CCl)=O)[C@]2(C1)C)=O)C)F | C23H26ClFO4
reactant | bis(trimethylsilyl)trifluoroacetamide | 3.5 ml | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 11β-(Acetyloxy)-21-chloro-9-fluoro-20-trimethylsilyloxypregna-1,4,16,20-tetraene-3-one | 1.6g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(=CCl)O[Si](C)(C)C)[C@]2(C1)C)=O)C)F | C26H34ClFO4Si
